US08580799B2
To a stirred solution of (4-Methyl-[1,2,5]thiadiazol-3-yl)-phenyl-methanone (20 g, 98 mmol) in dry pyridine (70 mL) was added hydroxylamine hydrochloride (17 g, 245 mmol). The reaction mixture was stirred at 70° C. for 3 h, then concentrated in vacuo and diluted with ethyl acetate (100 mL) and water (100 mL). The organic layer was washed with water (2×100 mL) and dried over MgSO4. Evaporation of the solvent in vacuo afforded N-hydroxy-1-(4-methyl-1,2,5-thiadiazol-3-yl)-1-phenylmethanimine as an orange oil [24.3 g, yield 99.6%; HPLC/MS: m/z=220 (M+H); log P(HCOOH)=2.26].

reactant | (4-Methyl-[1,2,5]thiadiazol-3-yl)-phenyl-methanone | 98 mmol, 20 g | CC=1C(=NSN1)C(=O)C1=CC=CC=C1 | C10H8N2OS
reactant | hydroxylamine hydrochloride | 245 mmol, 17 g | Cl.NO
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-(4-methyl-1,2,5-thiadiazol-3-yl)-1-phenylmethanimine | yield 99.6% | ON=C(C1=CC=CC=C1)C1=NSN=C1C | C10H9N3OS
